US06495576B2
N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethylpropyl]-3-phenylpropanamide
A suspension of 3-phenyl-propionamide, pivaldehyde, benzotriazole, and p-toluenesulfonic acid was processed as described in Example 1C to provide the title compound.

reactant | 3-phenyl-propionamide | C1(=CC=CC=C1)CCC(=O)N | C9H11NO
reactant | pivaldehyde | CC(C)(C)C=O | C5H10O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethylpropyl]-3-phenylpropanamide | N1(N=NC2=C1C=CC=C2)C(C(C)(C)C)NC(CCC2=CC=CC=C2)=O | C20H24N4O
